US07517873B2
To a solution of 0.384 g (0.001 mole) of (rac)-2-{[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-pentanoic acid ethyl ester (IV-16) in 5 mL of ethanol was added 0.562 g (0.0025 mole) of stannous chloride dihydrate and 0.1 mL of hydrochloric acid. The mixture was heated to 60 degrees for 2 hrs. The solvent was evaporated under reduced pressure. The residue was taken up in 20 mL of water and extracted with three times with 20 mL of ethyl acetate. The combined organic layers were dried with magnesium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography, eluting with dichloromethane-methanol (100:0-95:5) gave 0.210 g of (rac)-2-chloro-9-cyclopentyl-7-propyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VI-16) as a white solid.

reactant | (rac)-2-{[(2-chloro-5-nitro-pyrimidin-4-yl)-cyclopentyl-amino]-methyl}-pentanoic acid ethyl ester | 0.001 mole, 0.384 g | C(C)OC(C(CCC)CN(C1CCCC1)C1=NC(=NC=C1[N+](=O)[O-])Cl)=O | C17H25ClN4O4
reactant | hydrochloric acid | 0.1 mL | Cl | ClH
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (rac)-2-chloro-9-cyclopentyl-7-propyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.210 g | ClC=1N=CC2=C(N(CC(C(N2)=O)CCC)C2CCCC2)N1 | C15H21ClN4O
